US05347063
Synthesis of 1,3,5,7,-Tetra(4-aminophenyl)adamantane
To 1,3,5,7-tetra(p-nitrophenyl)adamantane (0.62 g, 1 mmol) was added 75 mL of ethyl alcohol followed by 15 mL of concentrated hydrochloric acid. Stannous chloride (SnCl2 --2H2O, 4.1 g, 15 mmol), was added to the mixture. After refluxing for 48 hours, the solvent was evaporated and 15 mL of water was added. The aqueous solution was made basic by adding 3M NaOH and was extracted four times with 50 mL of THF. The solvent was evaporated and crude 1,3,5,7-tetra(4-aminophenyl)adamantane was collected (0.5 g, mmol, >90%). 1H NMR (DMSO-d6, 360 MHz): of 1,3,5,7-tetra(4-aminophenyl)adamantane δ1.82 (s 12H), 4.79 (s 8H), 6.50, 6.52, 7.11, 7.13 (AA'BB', 16H). 13C NMR 37.77 (CH2), 47.64 (C--Ph--NH2), 113.65, 125.18, 137.60, 146.12 (Ph--NH2).

reactant | 1,3,5,7-tetra(p-nitrophenyl)adamantane | 1 mmol, 0.62 g | [N+](=O)([O-])C1=CC=C(C=C1)C12CC3(CC(CC(C1)(C3)C3=CC=C(C=C3)[N+](=O)[O-])(C2)C2=CC=C(C=C2)[N+](=O)[O-])C2=CC=C(C=C2)[N+](=O)[O-] | C34H28N4O8
reactant | hydrochloric acid | 15 mL | Cl | ClH
reactant | SnCl2 | Cl[Sn]Cl
solvent | ethyl alcohol | 75 mL | C(C)O | C2H6O
product | 1,3,5,7,-Tetra(4-aminophenyl)adamantane | NC1=CC=C(C=C1)C12CC3(CC(CC(C1)(C3)C3=CC=C(C=C3)N)(C2)C2=CC=C(C=C2)N)C2=CC=C(C=C2)N | C34H36N4
